US07179823B1
Lithium aluminium hydride (232 mg) was added to a mixture of methyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carboxylate (2.92 g), diethyl ether (50 ml), and tetrahydrofuran (25 ml) at 0° C., and the mixture was stirred at 0° C. for 3 hours. After water was added to the reaction mixture, the precipitate was removed by filtration. The filtrate was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]methanol (2.37 g, yield: 86%) was obtained as a colorless amorphous substance from the fraction eluted with ethyl acetate-hexane (2:3, volume ratio).

reactant | Lithium aluminium hydride | 232 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenylpyrrole-3-carboxylate | 2.92 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C(=O)OC)C=C1 | C30H26N2O4
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]methanol | 2.37 g, yield: 86% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CO)C=C1 | C29H26N2O3
